US05686482
A 0.50 g portion of methyl 5-acetyl-2,4-dimethoxybenzoate was dissolved in 10 ml of trifluoroacetic acid, 0.83 ml of triethylsilane was added, followed by 20 minutes stirring. After evaporation of the solvent, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give 0.50 g of methyl 2,4-dimethoxy-5-ethylbenzoate.

reactant | methyl 5-acetyl-2,4-dimethoxybenzoate | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)OC)OC | C12H14O5
reactant | triethylsilane | 0.83 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 2,4-dimethoxy-5-ethylbenzoate | 0.50 g | COC1=C(C(=O)OC)C=C(C(=C1)OC)CC | C12H16O4
